Name:  ___.              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
palpitations
 
Major Surgical or Invasive Procedure:
ablation of atrial flutter by EP team on ___

 
History of Present Illness:
Dr. ___ is an ___ gentleman with HTN who presents with 
palpitations. Reports that yesterday morning he was fatigued and 
felt his heart racing. This resolved in the afternoon and he 
felt fine throughout the night. This morning he woke up again 
feeling fatigued and having palpitations. He called his primary 
care office and was told to come to the ED. He reports having a 
similar episode in ___ that lasted a few hours but resolved 
without intervention. As per the patient he has a twenty year 
history of RBBB. He otherwise enjoys good health. 

In the ED initial vitals were:  T97.2 HR 110 BP 198/128 RR 18 
97% on RA. EKG reportedly atrial flutter with variable block. 
Labs notable for Hg 16.2, plt 157, WBC 9.4, Na 3.9, Cr 0.9. 
Patient was given 20mg IV diltiazem, followed by 30mg PO 
diltiazem with noted improvement in his HR to the low 100s. Upon 
transfer his BP was 148/79 and his HR was in the low 100s. 

Upon arrival to the floor, Dr. ___ is in no acute distress. He 
reports feeling palpitations and fatigued "like he just ran a 
marathon" but specifically denies lightheaded/dizziness, chest 
pain, shortness of breath, or lower extremity swelling. He does 
endorse recent issues with sciatica but this is currently not 
bothersome. 

REVIEW OF SYSTEMS:  

On further review of systems, denies any prior history of 
stroke, TIA, deep venous thrombosis, pulmonary embolism, 
bleeding at the time of surgery, myalgias, joint pains, cough, 
hemoptysis, black stools or red stools.  Denies recent fevers, 
chills or rigors. All of the other review of systems were 
negative.
 
Past Medical History:
-Essential hypertension
-sciatica
-bilateral total knee replacements
 
Social History:
___
Family History:
Father died at ___, CHF
Mother died at ___, sarcoma
Brother, alive and well. 
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death.  

 
Physical Exam:
ADMISSION: 
VS: T97.8 BP 161/99 HR 116 RR 18 98% RA
GENERAL: pleasant older gentleman in NAD. Oriented x3. Mood, 
affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of 8cm.  
CARDIAC: irregularly irregular, tachycardic, no m/r/g
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric.  

DISCHARGE: 
VS: T97.8 BP 148/97 HR ___ RR 18 98% RA. 
GENERAL: pleasant older gentleman in NAD. Oriented x3. Mood, 
affect appropriate.  
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.  

NECK: Supple with JVP of 8cm.  
CARDIAC: regular rhythm and rate, no m/r/g
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits.  
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.  
PULSES: Distal pulses palpable and symmetric.  

 
Pertinent Results:
ADMISSION/SIGNIFICANT LABS:
===========================
___ 12:45PM BLOOD WBC-9.4 RBC-5.16 Hgb-16.2 Hct-48.3 MCV-94 
MCH-31.4 MCHC-33.5 RDW-13.3 RDWSD-46.0 Plt ___
___ 12:45PM BLOOD Glucose-177* UreaN-20 Creat-0.9 Na-137 
K-3.9 Cl-97 HCO3-28 AnGap-16
___ 12:45PM BLOOD Glucose-177* UreaN-20 Creat-0.9 Na-137 
K-3.9 Cl-97 HCO3-28 AnGap-16

LABS AT DISCHARGE:
==================
___ 04:01AM BLOOD WBC-10.1* RBC-4.78 Hgb-15.1 Hct-44.3 
MCV-93 MCH-31.6 MCHC-34.1 RDW-13.2 RDWSD-45.5 Plt ___
___ 04:01AM BLOOD Glucose-110* UreaN-15 Creat-0.9 Na-137 
K-3.1* Cl-98 HCO3-26 AnGap-16
___ 04:01AM BLOOD Calcium-9.7 Phos-3.5 Mg-1.9

MICRO:
======
None

IMAGING:
========

CXR ___
No acute cardiopulmonary abnormality.

 
Brief Hospital Course:
___ with HTN presents with palpitations and found to be 
tachycardic to HR of 170s with ECG consistent with new atrial 
flutter. Rates better controlled after IV and PO diltiazem. 
Patient initially placed on heparin gtt and subsequently 
Eliquis. On ___, he underwent successful ablation with 
restoration of NSR. On telemetry, patient noted to have evidence 
of conduction disease with rare nonconducted beats demonstrating 
Wenckebach pattern. ECGs were reviewed with the 
electrophysiologist who felt that no further interventions were 
warranted at this time and will instead follow closely with the 
patient after discharge. Patient HD stable and asymptomatic at 
time of discharge in NSR with HRs in ___. Ambulating without 
issues.

TRANSITIONAL ISSUES:
-New Medications: Apixaban 5 mg BID 
-Please continue to monitor BP and titrate medications 
accordingly. 
-Consider outpatient sleep study for etiology of atrial flutter.
-Patient to follow up with EP specialist, Dr. ___, as 
outpatient for ongoing management of conduction system. 
# CODE:  DNR but ok for intubation, shocks, and ICU transfer. 
# CONTACT:  ___ (wife/HCP) cell ___ home 
___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Chlorthalidone 12.5 mg PO DAILY 
2. Lisinopril 40 mg PO DAILY 
3. Aspirin 325 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Felodipine 5 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth every twelve 
hours Disp #*60 Tablet Refills:*0 
2.  Aspirin 325 mg PO DAILY  
3.  Chlorthalidone 12.5 mg PO DAILY  
4.  Felodipine 5 mg PO DAILY  
5.  Lisinopril 40 mg PO DAILY  
6.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
atrial flutter
essential hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ was a privilege to care for you at the ___ 
___. You came to the hospital with a symptomatic fast 
heart rate and were found to have a tachyarrhythmia known as 
atrial flutter. You were given medications to control your heart 
rate with good effect. You then underwent a procedure called an 
ablation to restore normal heart rhythm, which was successful. 

To prevent your risk of stroke, you should continuing taking the 
blood thinner eliquis (apixiban) 5mg BID.

Please arrange a follow up appointment with your PCP within the 
next week and continue taking all medications as listed on your 
sign out instructions. If you develop any of the danger signs 
below, please call your doctor or go to the emergency 
immediately. 

We wish you the best!

Sincerey,
Your ___ Team
 
Followup Instructions:
___